US07648983B2
(S)-4-(3-(2-fluoropyridin-3-yl)phenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-amine Dihydrochloride Salt
To a solution of (S)-4-(3-(2-fluoropyridin-3-yl)phenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-amine (160 mg, 0.531 mmoles) in THF (4 mL) is added a saturated solution of HCl in dioxane (2 mL) at 0° C. The reaction mixture is allowed to stir at room temperature for 4 h. The solvent is removed under reduced pressure. The resulting solid is washed repeatedly with anhydrous ether and dried under reduced pressure to give title compound (87% yield): MS (m/z): 302 (M+1).

reactant | (S)-4-(3-(2-fluoropyridin-3-yl)phenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-amine | 0.531 mmoles, 160 mg | FC1=NC=CC=C1C=1C=C(C=CC1)[C@]1(N=C(SCC1)N)C | C16H16FN3S
reactant | HCl | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (S)-4-(3-(2-fluoropyridin-3-yl)phenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-amine Dihydrochloride Salt | 87% yield | Cl.Cl.FC1=NC=CC=C1C=1C=C(C=CC1)[C@]1(N=C(SCC1)N)C | InChI=1S/C16H16FN3S.2ClH/c1-16(7-9-21-15(18)20-16)12-5-2-4-11(10-12)13-6-3-8-19-14(13)17;;/h2-6,8,10H,7,9H2,1H3,(H2,18,20);2*1H/t16-;;/m0../s1
